US04849565
Preparation of 1-ethynyladamantane.
A solution of 45 g (0.17 mol) of 1-bromoadamantane in 60 ml of vinyl bromide was cooled to -65° C. and 10 g of aluminum bromide was added portionwise over 2 h. The mixture was then poured on to 500 g of ice, neutralized with 10% aqueous sodium carbonate solution, and extracted with 3×100 ml of methylene chloride. The combined extracts were dried (MgSO4) and evaporated to yield 70 g of an oil containing 1-(2,2-dibromoethyl)adamantane and polyvinyl bromide (NMR). This oil was dissolved in 100 ml of triglyme, 38 g (0.34 mol) of potassium t-butoxide added, nd the mixture heated at 160° C. for 3 h. The mixture was cooled, diluted with 300 ml of water and extracted with 3×100 ml of hexane. The combined hexane extracts were dried (MgSO4) , and distilled to give 12 g (52% based on 1-bromoadamantane) of 1 -ethynyladamantane: mp 82°-83° C.; bp 95-100 (l mm); NMR δ1.9-2.6 ppm.

reactant | 1-(2,2-dibromoethyl)adamantane | BrC(CC12CC3CC(CC(C1)C3)C2)Br | C12H18Br2
reactant | polyvinyl bromide | C=CBr | C2H3Br
reactant | potassium t-butoxide | 0.34 mol, 38 g | CC(C)([O-])C.[K+]
solvent | triglyme | 100 ml | COCCOCCOCCOC | C8H18O4
solvent | water | 300 ml | O | H2O
product | 1-ethynyladamantane | C(#C)C12CC3CC(CC(C1)C3)C2 | C12H16
